US08404679B2
4-Chloro-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3-methoxy-N-methyl-benzamide
In analogy to the procedure described for the synthesis of example 97, the title compound 4-chloro-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3-methoxy-N-methyl-benzamide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 4-chloro-3-methoxybenzoic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown foam. MS m/e: 608.1 [M+H]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | 4-chloro-3-methoxybenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)OC | C8H7ClO3
product | 4-chloro-N-{(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-3-methoxy-N-methyl-benzamide | ClC1=C(C=C(C(=O)N(C)C2CN(CC2C2=CC(=C(C=C2)Cl)Cl)C(=O)C2CCN(CC2)C(=O)C2(CC2)C)C=C1)OC | C30H34Cl3N3O4
